US08008298B2
1-{2-[3-(3-Aminomethyl-pyrrolidin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one was prepared starting from 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one and pyrrolidin-3-ylmethyl-carbamic acid tert-butyl ester following general procedures as described in these Examples. M+H=378.

reactant | 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | IC=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C23H30IN3O2Si
reactant | pyrrolidin-3-ylmethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CNCC1)=O | C10H20N2O2
product | 1-{2-[3-(3-Aminomethyl-pyrrolidin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-2,2-dimethyl-propan-1-one | NCC1CN(CC1)C=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C22H27N5O
